US09376422B2
Step 3: Synthesis of 5-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-ethyl-3-[ethyl(oxan-4-yl)amino]benzamide
To a solution of 5-chloro-2-ethyl-3-[ethyl(oxan-4-yl)amino]benzoic acid (100 mg, 0.32 mmol) in DMF (2 ml) at room temperature under nitrogen was added HBTU (146 mg, 0.38 mmol) followed by N-ethyl-N-(propan-2-yl)propan-2-amine (84 μl, 0.48 mmol) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 60.3 mg, 0.35 mmol). After stirring for 3 hours at room EtOAc (30 ml) was added to the reaction mixture and this was then washed with deionized water (5 ml) followed by saturated NaHCO3(aq) (3×5 ml). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (5 g silica, Isolute cartridge, gradient of eluents; 100% EtOAc to 97:3 EtOAc:MeOH) to give 90 mg (63%) of the title compound as a white solid. LC-MS 97%, m/z=446.1/448.2, 1H NMR (500 MHz, Chloroform-d) δ ppm 11.93 (s, 1H), 7.14 (t, J=5.7 Hz, 1H), 7.10 (d, J=2.0 Hz, 1H), 7.04 (d, J=2.0 Hz, 1H), 5.95 (s, 1H), 4.52 (d, J=5.8 Hz, 2H), 3.95 (d, J=11.2 Hz, 2H), 3.30 (td, J=11.3, 3.6 Hz, 2H), 3.01 (q, J=7.0 Hz, 2H), 2.93 (ddd, J=15.3, 10.0, 5.3 Hz, 1H), 2.83 (q, J=7.4 Hz, 2H), 2.38 (s, 3H), 2.22 (s, 3H), 1.71-1.63 (m, 4H), 1.02 (t, J=7.5 Hz, 3H), 0.86 (t, J=7.0 Hz, 3H).

reactant | 5-chloro-2-ethyl-3-[ethyl(oxan-4-yl)amino]benzoic acid | 0.32 mmol, 100 mg | ClC=1C=C(C(=C(C(=O)O)C1)CC)N(C1CCOCC1)CC | C16H22ClNO3
reactant | HBTU | 0.38 mmol, 146 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-(propan-2-yl)propan-2-amine | 0.48 mmol, 84 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.35 mmol, 60.3 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 5-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-ethyl-3-[ethyl(oxan-4-yl)amino]benzamide | 90 mg, 63% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)CC)N(C1CCOCC1)CC | C24H32ClN3O3
